US04701548
PREPARATION OF PHENYLETHYL-MERCAPTOACETATE
Into a 100 ml reaction flask equipped with thermometer, reflux condenser, hot plate (with magnetic stirring apparatus included within) and spin bar are placed 12.2 grams of phenylethyl alcohol; 23.0 grams mercaptoacetic acid; and 0.5 grams of para-toluene sulphonic acid.

reactant | phenylethyl alcohol | 12.2 grams | C1(=CC=CC=C1)CCO | C8H10O
reactant | mercaptoacetic acid | 23.0 grams | SCC(=O)O | C2H4O2S
reactant | para-toluene sulphonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | PHENYLETHYL-MERCAPTOACETATE | C1(=CC=CC=C1)CCOC(CS)=O | C10H12O2S
